US08877801B2
To a solution of methyl 5-hydroxypyridine-2-carboxylate (0.273 g, 1.78 mmol) in DMF (6.84 mL) at room temperature was added sodium hydride (60% suspension in oil, 0.043 g, 1.78 mmol) and the resulting mixture was stirred at room temperature for 30 mins. After 30 min at room temperature 3-bromo-6-methoxy-2-(4-methoxyphenyl)benzothiophene 1-oxide (0.5 g, 1.37 mmol) was added and the reaction was heated to 80° C. for 18 h. Upon completion the reaction was cooled to room temperature, quenched with water and extracted with DCM. The organic layers were combined, passed through a phase separator and concentrated in vacuo to give the crude product, which was purified by column chromatography (SiO2, 0-75% EtOAc/heptane) to afford methyl 5-((6-methoxy-2-(4-methoxyphenyl)-1-oxidobenzo[b]thiophen-3-yl)oxy)picolinate (314 mg, 0.72 mmol, 52% yield). 1H NMR (400 MHz, CDCl3) δ ppm=3.73 (s, 3H), 3.84 (s, 3H), 3.90-3.92 (m, 3H), 6.79-6.86 (m, 2H), 6.91 (dd, J=8.59, 2.53 Hz, 1H), 7.03 (d, J=8.59 Hz, 1H), 7.30 (dd, J=8.59, 3.03 Hz, 1H), 7.48 (d, J=2.53 Hz, 1H), 7.55-7.60 (m, 2H), 7.95 (d, J=8.59 Hz, 1H), 8.55 (d, J=2.02 Hz, 1H). LC/MS (m/z, MH+): 438.2.

reactant | methyl 5-hydroxypyridine-2-carboxylate | 1.78 mmol, 0.273 g | OC=1C=CC(=NC1)C(=O)OC | C7H7NO3
reactant | sodium hydride | 1.78 mmol, 0.043 g | [H-].[Na+]
reactant | 3-bromo-6-methoxy-2-(4-methoxyphenyl)benzothiophene 1-oxide | 1.37 mmol, 0.5 g | BrC1=C(S(C2=C1C=CC(=C2)OC)=O)C2=CC=C(C=C2)OC | C16H13BrO3S
solvent | DMF | 6.84 mL | CN(C)C=O | C3H7NO
product | methyl 5-((6-methoxy-2-(4-methoxyphenyl)-1-oxidobenzo[b]thiophen-3-yl)oxy)picolinate | 0.72 mmol, 314 mg, 52% yield | COC=1C=CC2=C(S(C(=C2OC=2C=CC(=NC2)C(=O)OC)C2=CC=C(C=C2)OC)=O)C1 | C23H19NO6S
